US05731127
Phenyl isocyanate and 4-aminophenol were added to dioxane solvent, and stirred for 2 hours to obtain 4-(N'-phenylureido)phenol (hereinafter, referred to simply as "Compound 8").

reactant | Phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(N'-phenylureido)phenol | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)O)=O | C13H12N2O2
